US07737136B2
trans-N-[2,3,4,14b-Tetrahydro-7-[(1-oxopropyl)amino]-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl]-2,2,2-trifluoroacetamide (Structure 52 of Scheme XII)
To a solution of trans-N-(7-amino-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido-[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (50 mg, 0.13 mmol) in CH2Cl2 (2 mL) was added propionyl chloride (11 μl, 0.13 mmol) and triethylamine (20 μl, 0.14 mmol). The reaction mixture was stirred for 1.5 h at room temperature. The reaction mixture was quenched with sat. NaHCO3 (aq) and extracted with CH2Cl2. The organic layer was dried and evaporated. The crude product was purified on silica and by HPLC to afford the title compound (27 mg, 48%). Data (m/z)=434 (M+H)+.

reactant | trans-N-(7-amino-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido-[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 0.13 mmol, 50 mg | NC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C19H18F3N3O2
reactant | propionyl chloride | 0.13 mmol, 11 μl | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 0.14 mmol, 20 μl | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | trans-N-[2,3,4,14b-Tetrahydro-7-[(1-oxopropyl)amino]-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl]-2,2,2-trifluoroacetamide | 27 mg, 48% | O=C(CC)NC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C22H22F3N3O3
